US07777047B2
(2-{7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)methyl methanesulfonate
To a solution of N-{2-[5-(hydroxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide (2.0 g) and triethylamine (1.4 mL) in tetrahydrofuran (50 mL) was added methanesulfonyl chloride (860 mg), and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (1.85 g, yield 77%) as a white amorphous solid from a fraction eluted with ethyl acetate. MS: 481 (MH+).

reactant | N-{2-[5-(hydroxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide | 2.0 g | OCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C1=NC=CC=C1)C | C18H18N4O3S2
reactant | triethylamine | 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 860 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (2-{7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)methyl methanesulfonate | 1.85 g, yield 77% | CS(=O)(=O)OCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C1=NC=CC=C1)C | C19H20N4O5S3
